US07365066B2
3-Bromo-2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine
A solution of 2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine-3-carboxylic acid (0.92 g, 3.6 mmol), sodium bicarbonate (1.04 g, 12.4 mmol), and N-bromosuccinimide (0.71 g, 4.0 mmol) in DMF (25 mL) is stirred for 2 hours at room temperature. The reaction is then diluted with water (50 mL) and extracted with EtOAc (3×15 mL). The organic layer is washed with brine and dried over sodium sulfate. The solvent is removed in vacuo to afford 0.91 g (87%) of desired product as a dark green solid. UV (95% EtOH) λmax 282 nm (ε 12089), 233 nm (ε 21813). TOF MS ES+ exact mass calculated for C13H10BrN3 (p+1): m/z=288.0136. Found: 287.0058. Anal. Calcd for C13H10BrN3: C, 54.19; H, 3.50; N, 14.58. Found: C, 54.10; H, 3.60; N, 14.48.

reactant | 2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine-3-carboxylic acid | 3.6 mmol, 0.92 g | CC1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C(=O)O | C14H11N3O2
reactant | sodium bicarbonate | 12.4 mmol, 1.04 g | C([O-])(O)=O.[Na+]
reactant | N-bromosuccinimide | 4.0 mmol, 0.71 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-Bromo-2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine | 0.91 g, 87% | BrC=1C(=NN2C1C=CC=C2)C2=NC(=CC=C2)C | C13H10BrN3
